US08232390B2
Step 1: Methyl 3-cyclohexyl-2-(2-vinylphenyl)-1H-indole-6-carboxylate
2-bromo-3-cyclohexyl indole-6-carboxylic acid methyl ester (1 eq., prepared as described in WO 2004/087714) was mixed with 2-vinyl benzene boronic acid (1.6 eq.) and bis(triphenylphosphine)palladium dichloride (0.15 eq.) was added. The mixture was degassed and dioxane and 2M aqueous sodium carbonate solution (5 eq.) were added. The mixture was heated under nitrogen atmosphere to 110° C. After 2 h all volatiles were removed in vacuo and the residual material was subjected to flash chromatography (PE:EtOAc, 10:1). After evaporation of the solvent the product was obtained as yellow crystals (83%). MS (ES+): 360.4 (M+H+).

reactant | 2-bromo-3-cyclohexyl indole-6-carboxylic acid methyl ester | 1 eq. | COC(=O)C1=CC=C2C(=C(NC2=C1)Br)C1CCCCC1 | C16H18BrNO2
reactant | 2-vinyl benzene boronic acid | 1.6 eq. | C(=C)C1=C(C=CC=C1)B(O)O | C8H9BO2
reactant | sodium carbonate | 2M, 5 eq. | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium dichloride | 0.15 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl 3-cyclohexyl-2-(2-vinylphenyl)-1H-indole-6-carboxylate | 83% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)C=C | C24H25NO2
